US07230017B2
3-{[3-Chlorophenyl]amino}-2-butenenitrile
3-Aminocrotonitrile (5.0 g, 60.9 mmol), 3-chloroaniline (8.55 g, 66.99 mmol) and acetic acid (6.22 g, 103.5 mmol) are dissolved in water (20 ml). The reaction mixture is stirred at room temperature for 60 minutes and the precipitate is isolated.

reactant | 3-Aminocrotonitrile | 60.9 mmol, 5.0 g | C/C(=C\C#N)/N | C4H6N2
reactant | 3-chloroaniline | 66.99 mmol, 8.55 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | acetic acid | 103.5 mmol, 6.22 g | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 3-{[3-Chlorophenyl]amino}-2-butenenitrile | ClC=1C=C(C=CC1)NC(=CC#N)C | C10H9ClN2
